US04661510
4-Amino-4-carboxyhepta-5,6-dienoic acid hydrochloride salt
The hydrolysis of propargyl 4-amino-4-carbomethoxyhepta-5,6-dienoate was carried out by dissolving 360 mg of the diester in 10% HCl and heating the solution to 65°-70° C. for about 22 hours. When cooled, the reaction mixture was placed directly on an ion-exchange column (BioRad Ag 50×8) washed with water, and eluted with a 1.7M ammonium hydroxide solution. The ammonium hydroxide fractions were pooled and concentrated to give the free acid of the title compound which was purified further by passing an aqueous solution of the pyrrolidone through a short column of RP-18 material. Upon concentration of the eluant, a residue was obtained which was taken in a dilute HCl solution of pH 3.2. On evaporation to dryness, the title compound was obtained.

reactant | propargyl 4-amino-4-carbomethoxyhepta-5,6-dienoate | NC(CCC(=O)OCC#C)(C=C=C)C(=O)OC | C12H15NO4
reactant | HCl | Cl | ClH
product | 4-Amino-4-carboxyhepta-5,6-dienoic acid hydrochloride salt | Cl.NC(CCC(=O)O)(C=C=C)C(=O)O | InChI=1S/C8H11NO4.ClH/c1-2-4-8(9,7(12)13)5-3-6(10)11;/h4H,1,3,5,9H2,(H,10,11)(H,12,13);1H
